### PR TITLE
[Merged by Bors] - feat(NumberTheory/EllipticDivisibilitySequence): add elliptic nets

### PR DESCRIPTION
**Pull request by Multramate**
This PR continues the work from #25030.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25030

### CODE REVIEW

**Comment by Multramate** [comment]
## Comments from Original PR #25030

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-05-19 22:07 UTC](https://github.com/leanprover-community/mathlib4/pull/25030#issuecomment-2892399269)):
### PR summary [be39cee8c2](https://github.com/leanprover-community/mathlib4/pull/25030/commits/be39cee8c2e234058e6901856087323888f133bc)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

#### Declarations diff

No declarations were harmed in the making of this PR! 🐙
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 1]
```diff
@@ -58,36 +84,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+    atomRel W ((p + q + r + s) / 2 - s) ((p + q + r + s) / 2 - r) ((p + q + r + s) / 2 - q)
+      ((p + q + r + s) / 2 - p) = atomRel W p q r s := by
+  have h {m n : ℤ} (h : n % 2 = m % 2) : 2 ∣ m + n := by
+    rw [← sub_neg_eq_add, ← Int.modEq_iff_dvd, Int.ModEq, ← h, Int.neg_emod_two]
+  simp_rw [add_assoc <| p + q, atomRel, atom, sub_add_sub_comm, ← two_mul,
+    Int.mul_ediv_cancel' <| Int.dvd_add (h <| parity.2.1 ▸ parity.1) <| h parity.2.2]
+  ring_nf
+
+@[simp]
+lemma map_atomRel (W : ℤ → R) (p q r s : ℤ) : f (atomRel W p q r s) = atomRel (f ∘ W) p q r s := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Why is `W` repeated here? (It is already in the `variable`s.)

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 2]
```diff
@@ -58,36 +84,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+  rw [rel]
+  ring_nf
+
+lemma rel_odd (m : ℤ) : rel W (m + 1) m 1 0 =
+    W (2 * m + 1) * W 1 ^ 3 - W (m + 2) * W m ^ 3 + W (m - 1) * W (m + 1) ^ 3 := by
+  rw [rel]
+  ring_nf
+
+@[simp]
+lemma map_rel (W : ℤ → R) (p q r s : ℤ) : f (rel W p q r s) = rel (f ∘ W) p q r s := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: See above.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 3]
```diff
@@ -58,36 +84,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+/-- The proposition that a sequence indexed by `ℤ` is an elliptic sequence. -/
 def IsEllSequence : Prop :=
-  ∀ m n r : ℤ, W (m + n) * W (m - n) * W r ^ 2 =
-    W (m + r) * W (m - r) * W n ^ 2 - W (n + r) * W (n - r) * W m ^ 2
+  ∀ p q r : ℤ, IsEllipticNet.rel W p q r 0 = 0
 
-/-- The proposition that a sequence indexed by integers is a divisibility sequence. -/
+/-- The proposition that a sequence indexed by `ℤ` is a divisibility sequence. -/
 def IsDivSequence : Prop :=
   ∀ m n : ℕ, m ∣ n → W m ∣ W n
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This does not impose any constraints on the terms with negative indices. Is this intentional?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 4]
```diff
@@ -58,36 +84,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+variable {W} in
+lemma IsDivSequence.smul (h : IsDivSequence W) (x : R) : IsDivSequence <| x • W :=
+  (mul_dvd_mul_left x <| h · · ·)
+
+variable {W} in
+lemma IsEllDivSequence.smul (h : IsEllDivSequence W) (x : R) : IsEllDivSequence (x • W) :=
+  ⟨h.left.smul x, h.right.smul x⟩
+
+lemma isEllipticNet_id : IsEllipticNet id :=
+  fun _ _ _ _ => by simp_rw [IsEllipticNet.rel, id_eq]; ring1
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
  fun _ _ _ _ ↦ by simp_rw [IsEllipticNet.rel, id_eq]; ring1
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 5]
```diff
@@ -58,36 +84,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
 
-variable {R : Type u} [CommRing R]
+variable {R : Type u} {S : Type v} [CommRing R] [CommRing S] (W : ℤ → R) (f : R →+* S)
+
+namespace IsEllipticNet
+
+/-- The elliptic atom `Wₐ(p, q)` that defines an elliptic net. Note that this is defined in terms of
+truncated integer division, and hence should only be used when `p` and `q` have the same parity. -/
+def atom (p q : ℤ) : R :=
+  W ((p + q).tdiv 2) * W ((p - q).tdiv 2)
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Is there a reason to prefer `tdiv` over simply `/` (which seems to be the same as `Int.ediv`)?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 6]
```diff
@@ -58,36 +84,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+
+@[simp]
+lemma atom_same (p : ℤ) : atom W p p = W p * W 0 := by
+  rw [atom, ← two_mul, Int.mul_tdiv_cancel_left _ two_ne_zero, sub_self, Int.zero_tdiv]
+
+variable {W} in
+@[simp]
+lemma neg_atom (odd : ∀ n : ℤ, W (-n) = -W n) (p q : ℤ) : -atom W p q = atom W q p := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This could be written in terms of `Function.Odd`, I think.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This is likely a copying error, thanks.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 2 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Ditto

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 4 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: What's the convention here? I've been gone for a year and I still don't see it written anywhere.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 3 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Fixed, thanks.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 5 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: The only reason is that `(-n).tdiv 2 = -(n.tdiv 2)` holds for all integers `n`, which makes some of the lemmas easier to prove. Although in the cases we care about, `p` and `q` have the same parity, so it doesn't matter too much.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 6 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This makes `simp_rw` slightly more annoying, but I've changed it.

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This makes `simp_rw` slightly more annoying, but I've changed it.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: My recollection is that there was a conensus that we prefer `↦` in Mathlib (and this is also what the pretty-printer thinks).

**Comment by Multramate** [comment]
> Can you say something about the motivation here?

This is explained in #13155 - that PR is pretty long (and outdated), so I'm splitting off a small standalone component of it. I could say something in the description, but it should be self-explanatory from the module docstring.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 7]
```diff
@@ -61,59 +89,251 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+
+namespace IsEllipticNet
+
+/-- The elliptic atom `Wₐ(p, q)` that defines an elliptic net. Note that this is defined in terms of
+truncated integer division, and hence should only be used when `p` and `q` have the same parity. -/
+def atom (p q : ℤ) : R :=
+  W ((p + q).tdiv 2) * W ((p - q).tdiv 2)
+
+example (m : ℤ) : (-m).tdiv 2 = -(m.tdiv 2) := by
+  exact Int.neg_tdiv m 2
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This shouldn't be kept around. (If it's to illustrate the utility of `tdiv`, then maybe add a comment to `atom` or expand its docstring.

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Sorry, thanks! I have no idea why this was here.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 8]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+
+@[simp]
+lemma atomRel_abs₄ (p q r s : ℤ) : atomRel W p q r |s| = atomRel W p q r s := by
+  simp_rw [atomRel, atom_abs_right]
+
+lemma atomRel_avg_sub {p q r s : ℤ} (parity : s % 2 = p % 2 ∧ s % 2 = q % 2 ∧ s % 2 = r % 2) :
+    atomRel W ((p + q + r + s) / 2 - s) ((p + q + r + s) / 2 - r) ((p + q + r + s) / 2 - q)
+      ((p + q + r + s) / 2 - p) = atomRel W p q r s := by
+  have h {m n : ℤ} (h : n % 2 = m % 2) : 2 ∣ m + n := by
+    rw [Int.dvd_iff_emod_eq_zero, Int.add_emod, h, ← two_mul, Int.mul_emod_right]
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Should this be extracted as a separate lemma?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 9]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
 def IsEllSequence : Prop :=
-  ∀ m n r : ℤ, W (m + n) * W (m - n) * W r ^ 2 =
-    W (m + r) * W (m - r) * W n ^ 2 - W (n + r) * W (n - r) * W m ^ 2
+  ∀ p q r : ℤ, IsEllipticNet.rel W p q r 0 = 0
 
-/-- The proposition that a sequence indexed by integers is a divisibility sequence. -/
+/-- The proposition that a sequence indexed by `ℤ` is a divisibility sequence. -/
 def IsDivSequence : Prop :=
-  ∀ m n : ℕ, m ∣ n → W m ∣ W n
+  ∀ m n : ℤ, m ∣ n → W m ∣ W n
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This should be defined for any function from a type with divisibility to a type with divisibility (e.g., so that `Nat.Fib` is still a divisibility sequence).

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 10]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
-    linear_combination (norm := (simp_rw [Pi.smul_apply, smul_eq_mul]; ring1)) x ^ 4 * h m n r
+variable {W} in
+lemma IsEllSequence.smul (h : IsEllSequence W) (x : R) : IsEllSequence <| x • W := fun m n r => by
+  linear_combination (norm := (simp_rw [IsEllipticNet.rel, Pi.smul_apply, smul_eq_mul]; ring1))
+    x ^ 4 * h m n r
 
-lemma IsDivSequence.smul (h : IsDivSequence W) (x : R) : IsDivSequence (x • W) :=
-  fun m n r => mul_dvd_mul_left x <| h m n r
+variable {W} in
+lemma IsDivSequence.smul (h : IsDivSequence W) (x : R) : IsDivSequence <| x • W :=
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: There's a lot of this `<|` in this PR, but I don't know if it really improves readability for these single argument applications. (Another example that caught my eye as `add_assoc <| p + q` which again doesn't feel very mathlib-y).

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 11]
```diff
@@ -283,7 +500,7 @@ end PreNormEDS
 section NormEDS
 
 /-- The canonical example of a normalised EDS `W : ℤ → R`, with initial values
-`W(0) = 0`, `W(1) = 1`, `W(2) = b`, `W(3) = c`, and `W(4) = d * b`.
+`W(0) = 0`, `W(1) = 1`, `W(2) = b`, `W(3) = c`, and `W(4) = db`.
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I don't know if this is actually an improvement.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 12]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+
+lemma atom_even (p q : ℤ) : atom W (2 * p) (2 * q) = W (p + q) * W (p - q) := by
+  simp_rw [atom, ← mul_add, ← mul_sub, Int.mul_tdiv_cancel_left _ two_ne_zero]
+
+lemma atom_odd (p q : ℤ) : atom W (2 * p + 1) (2 * q + 1) = W (p + q + 1) * W (p - q) := by
+  simp_rw [atom, add_add_add_comm _ (1 : ℤ), ← two_mul, ← mul_add, add_sub_add_comm, sub_self,
+    add_zero, ← mul_sub, Int.mul_tdiv_cancel_left _ two_ne_zero]
+
+@[simp]
+lemma map_atom (p q : ℤ) : f (atom W p q) = atom (f ∘ W) p q := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Maybe this should take a `RingHomClass`? (analogous to lemmas like `map_add` and `map_mul`)

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 13]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+    atomRel W ((p + q + r + s) / 2 - s) ((p + q + r + s) / 2 - r) ((p + q + r + s) / 2 - q)
+      ((p + q + r + s) / 2 - p) = atomRel W p q r s := by
+  have h {m n : ℤ} (h : n % 2 = m % 2) : 2 ∣ m + n := by
+    rw [Int.dvd_iff_emod_eq_zero, Int.add_emod, h, ← two_mul, Int.mul_emod_right]
+  simp_rw [add_assoc <| p + q, atomRel, atom, sub_add_sub_comm, ← two_mul,
+    Int.mul_ediv_cancel' <| Int.dvd_add (h <| parity.2.1 ▸ parity.1) <| h parity.2.2]
+  ring_nf
+
+@[simp]
+lemma map_atomRel (p q r s : ℤ) : f (atomRel W p q r s) = atomRel (f ∘ W) p q r s := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Also here.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 14]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+  rw [rel]
+  ring_nf
+
+lemma rel_odd (m : ℤ) : rel W (m + 1) m 1 0 =
+    W (2 * m + 1) * W 1 ^ 3 - W (m + 2) * W m ^ 3 + W (m - 1) * W (m + 1) ^ 3 := by
+  rw [rel]
+  ring_nf
+
+@[simp]
+lemma map_rel (p q r s : ℤ) : f (rel W p q r s) = rel (f ∘ W) p q r s := by
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:276]: Also here.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 15]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+
+lemma rel_even (m : ℤ) : rel W (m + 1) (m - 1) 1 0 = W (2 * m) * W 2 * W 1 ^ 2 -
+    W (m - 1) ^ 2 * W m * W (m + 2) + W (m - 2) * W m * W (m + 1) ^ 2 := by
+  rw [rel]
+  ring_nf
+
+lemma rel_odd (m : ℤ) : rel W (m + 1) m 1 0 =
+    W (2 * m + 1) * W 1 ^ 3 - W (m + 2) * W m ^ 3 + W (m - 1) * W (m + 1) ^ 3 := by
+  rw [rel]
+  ring_nf
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:274]: These names aren't ideal (since the LHS doesn't have much relation to "even" or "odd")

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 16]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+@[simp]
+lemma map_atomRel (p q r s : ℤ) : f (atomRel W p q r s) = atomRel (f ∘ W) p q r s := by
+  simp_rw [atomRel, map_add, map_sub, map_mul, map_atom]
+
+/-- The elliptic relator `ER(p, q, r, s)` that defines an elliptic net. -/
+def rel (p q r s : ℤ) : R :=
+  W (p + q + s) * W (p - q) * W (r + s) * W r - W (p + r + s) * W (p - r) * W (q + s) * W q +
+    W (q + r + s) * W (q - r) * W (p + s) * W p
+
+lemma rel_eq (p q r s : ℤ) : rel W p q r s = atomRel W (2 * p + s) (2 * q + s) (2 * r + s) s := by
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:244]: At docstring to this, maybe in the module docstring:
Image
Also I think it's better to use different parameters `a b c d` for ERₐ.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 17]
```diff
@@ -61,59 +89,248 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+  simp_rw [atom, add_add_add_comm _ (1 : ℤ), ← two_mul, ← mul_add, add_sub_add_comm, sub_self,
+    add_zero, ← mul_sub, Int.mul_tdiv_cancel_left _ two_ne_zero]
+
+@[simp]
+lemma map_atom (p q : ℤ) : f (atom W p q) = atom (f ∘ W) p q := by
+  simp_rw [atom, map_mul, Function.comp]
+
+/-- The elliptic relator `ERₐ(p, q, r, s)` obtained by a cyclic permutation of variables in
+`ER(p, q, r, s)`. Note that this is defined in terms of elliptic atoms, and hence should only be
+used when `p`, `q`, `r`, and `s` all have the same parity. -/
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Not sure why you're mentioning ERₐ and ER with same parameters here.
Also I wouldn't describe this as cyclic permutation; it's rather the three partitions of the four parameters into two groups of two.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 18]
```diff
@@ -5,22 +5,42 @@ Authors: David Kurniadi Angdinata
...
+defined in terms of *elliptic atoms* `Wₐ(p, q) := W((p + q) / 2)W((p - q) / 2)` for some `p, q ∈ ℤ`.
+
+As a special case, `W` is an *elliptic sequence* if it satisfies `ER(p, q, r, 0) = 0` for any
+`p, q, r ∈ ℤ`. It is a *divisibility sequence* if it satisfies `W(k) ∣ W(nk)` for any `k, n ∈ ℤ`,
+and an *elliptic divisibility sequence* (EDS) if it is a divisibility sequence that is elliptic. If
+`W` is an EDS, then `x • W` is also an EDS for any `x ∈ R`. It turns out that any EDS `W` can be
+normalised such that `W(1) = 1`, in which case it can be characterised completely by
+* the *even relations* `ER(m + 1, m - 1, 1, 0) = 0` for all `m ∈ ℤ`, or in other words that
+  `W(2m) = W(m - 1)²W(m)W(m + 2) - W(m - 2)W(m)W(m + 1)²` for all `m ∈ ℤ`, and
+* the *odd relations* `ER(m + 1, m, 1, 0) = 0` for all `m ∈ ℤ`, or in other words that
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:42]: These should be ERₐ

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 9 above)
Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Maybe implement this, since it's easy? You may need to add some type annotations for `id` below though.

**Review by alreadydone — COMMENTED** [review]
LGTM otherwise

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 19]
```diff
@@ -5,22 +5,42 @@ Authors: David Kurniadi Angdinata
...
+canonical example of a normalised elliptic divisibility sequence.
 
 ## Mathematical background
 
-Let `R` be a commutative ring. An elliptic sequence is a sequence `W : ℤ → R` satisfying
-`W(m + n)W(m - n)W(r)² = W(m + r)W(m - r)W(n)² - W(n + r)W(n - r)W(m)²` for any `m, n, r ∈ ℤ`.
-A divisibility sequence is a sequence `W : ℤ → R` satisfying `W(m) ∣ W(n)` for any `m, n ∈ ℤ` such
-that `m ∣ n`. An elliptic divisibility sequence is simply a divisibility sequence that is elliptic.
+Let `R` be a commutative ring, and let `W` be a sequence of elements in `R` indexed by `ℤ`. The
+*elliptic relator* `ER(p, q, r, s) ∈ R` associated to `W` is given for all `p, q, r, s ∈ ℤ` by
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:26]:
```suggestion
*elliptic relator* `ER(p, q, r, s) ∈ R` associated to `W` and four integers `p, q, r, s ∈ ℤ` is defined as
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 20]
```diff
@@ -5,22 +5,42 @@ Authors: David Kurniadi Angdinata
...
+`ER(p, q, r, s) := W(p+q+s)W(p-q)W(r+s)W(r) - W(p+r+s)W(p-r)W(q+s)W(q) + W(q+r+s)W(q-r)W(p+s)W(p)`.
+Call `W` an *elliptic net* if it satisfies the *elliptic relation* `ER(p, q, r, s) = 0` for any
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
Call `W` an *elliptic net* if it satisfies the *elliptic relation* `ER(p, q, r, s) = 0` for all
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 21]
```diff
@@ -5,22 +5,42 @@ Authors: David Kurniadi Angdinata
...
+`p, q, r, s ∈ ℤ`. By a cyclic permutation of variables, `ER(p, q, r, s) = 0` is essentially the same
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
`p, q, r, s ∈ ℤ`. By a cyclic permutation of variables, `ER(p, q, r, s) = 0` is equivalent to
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 22]
```diff
@@ -5,22 +5,42 @@ Authors: David Kurniadi Angdinata
...
+as the symmetric elliptic relation `ERₐ(p, q, r, s) = 0`, where `ERₐ(p, q, r, s) ∈ R` is given for
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
the symmetric elliptic relation `ERₐ(p, q, r, s) = 0`, where `ERₐ(p, q, r, s) ∈ R` is given for
```

Is it mathematically equivalent? Or am I putting words in your mouth? I definitely don't like "essentially the same as" -- because who knows what that means.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 23]
```diff
@@ -5,22 +5,42 @@ Authors: David Kurniadi Angdinata
...
+all `p, q, r, s ∈ ℤ` by `ERₐ(p, q, r, s) := Wₐ(p, q)Wₐ(r, s) - Wₐ(p, r)Wₐ(q, s) + Wₐ(p, s)Wₐ(q, r)`
+defined in terms of *elliptic atoms* `Wₐ(p, q) := W((p + q) / 2)W((p - q) / 2)` for some `p, q ∈ ℤ`.
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: What does this even mean when (p+q)/2 isn't an integer? Are we rounding like we would do in mathlib?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 24]
```diff
@@ -61,55 +91,240 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
-  ∀ m n r : ℤ, W (m + n) * W (m - n) * W r ^ 2 =
-    W (m + r) * W (m - r) * W n ^ 2 - W (n + r) * W (n - r) * W m ^ 2
+  ∀ p q r : ℤ, IsEllipticNet.rel W p q r 0 = 0
 
 @[deprecated (since := "2026-06-30")] alias IsDivSequence := IsDvdSequence
 
-/-- The proposition that a sequence indexed by integers is an EDS. -/
-def IsEllDivSequence : Prop :=
+/-- The proposition that a sequence indexed by `ℤ` is an EDS. -/
+def IsEllDvdSequence : Prop :=
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Some deprecations will need to be added.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 8 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I think having this inside the lemma is fine. I'm not sure how best to phrase "two things have the same parity" (or "three things have the same parity" as in `atomRel_eq`) so this is really rephrasing something trivially.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 15 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:274]: How else would you call these? The even/odd distinction is explained in the module docstrings.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 17 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Can I just say "permutation"? I'll change all instances of p, q, r, s for ER to a, b, c, d

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 24 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Added!

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 16 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:244]: Changed!

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 8 above)
Comment (tb65536) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: But wouldn't it be reasonable to have `{m n : ℤ} (h : n % 2 = m % 2) : 2 ∣ m + n` as a separate lemma in `Algebra/Ring/Int/Parity`?

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: My point is that the assumption could be `IsEven n \iff IsEven m` or `IsOdd n \iff IsOdd m` or `(n - m) % 2 = 0` many other possible combinations and I don't want to settle on this one definitively.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 25]
```diff
@@ -5,23 +5,45 @@ Authors: David Kurniadi Angdinata
...
 public import Mathlib.Tactic.LinearCombination
+public import Mathlib.Tactic.Ring
 import Mathlib.Algebra.Group.Int.Even
+import Mathlib.Data.Int.ModEq
 
 /-!
 # Elliptic divisibility sequences
 
-This file defines the type of an elliptic divisibility sequence (EDS) and a few examples.
+This file defines the types of elliptic nets and elliptic divisibility sequences, as well as the
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Did you actually define the types? Is it better to say "defines the predicates for a `ℤ`-indexed sequence to be an elliptic net, elliptic sequence, or elliptic divisibility sequence"?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 26]
```diff
@@ -5,23 +5,45 @@ Authors: David Kurniadi Angdinata
...
-A divisibility sequence is a sequence `W : ℤ → R` satisfying `W(m) ∣ W(n)` for any `m, n ∈ ℤ` such
-that `m ∣ n`. An elliptic divisibility sequence is simply a divisibility sequence that is elliptic.
+Let `R` be a commutative ring, and let `W` be a sequence of elements in `R` indexed by `ℤ`. The
+*elliptic relator* `ER(a, b, c, d) ∈ R` associated to `W` is given for all `a, b, c, d ∈ ℤ` by
+`ER(a, b, c, d) := W(a+b+d)W(a-b)W(c+d)W(c) - W(a+c+d)W(a-c)W(b+d)W(b) + W(b+c+d)W(b-c)W(a+d)W(a)`.
+Call `W` an *elliptic net* if it satisfies the *elliptic relation* `ER(a, b, c, d) = 0` for all
+`a, b, c, d ∈ ℤ`. By a permutation of variables, the vanishing of `ER` is essentially equivalent to
+the vanishing of symmetric relation `ERₐ`, where `ERₐ(p, q, r, s) ∈ R` is given for all
+`p, q, r, s ∈ ℤ` by `ERₐ(p, q, r, s) := Wₐ(p, q)Wₐ(r, s) - Wₐ(p, r)Wₐ(q, s) + Wₐ(p, s)Wₐ(q, r)`
+defined in terms of *elliptic atoms* `Wₐ(p, q) := W((p + q) / 2)W((p - q) / 2)`.
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This is now backwards from my paper, which uses `a b c d` for ERₐ and `p q r s` for ER.

"permutation of variables" is not accurate; the variables (which I call parameters) are related by a linear transformation (p,q,r,s)=(2a+d,2b+d,2c+d,d). You can simply cite the lemmas proven in this PR:
`lemma rel_eq (a b c d : ℤ) : rel W a b c d = atomRel W (2 * a + d) (2 * b + d) (2 * c + d) d `
and `atomRel_eq`. The two sides are simply equal and you don't have to say that their vanishing are equivalent.

Please also fix the docstring for `atomRel`.

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I think I fixed it now?

**Review by alreadydone — APPROVED** [review]
Thanks!

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 27]
```diff
@@ -61,55 +91,256 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+  simp_rw [atomRel, atom_abs_right]
+
+lemma atomRel_avg_sub {a b c d : ℤ} (parity : d % 2 = a % 2 ∧ d % 2 = b % 2 ∧ d % 2 = c % 2) :
+    atomRel W ((a + b + c + d) / 2 - d) ((a + b + c + d) / 2 - c) ((a + b + c + d) / 2 - b)
+      ((a + b + c + d) / 2 - a) = atomRel W a b c d := by
+  have h {m n : ℤ} (h : n % 2 = m % 2) : 2 ∣ m + n := by
+    rw [Int.dvd_iff_emod_eq_zero, Int.add_emod, h, ← two_mul, Int.mul_emod_right]
+  simp_rw [add_assoc <| a + b, atomRel, atom, sub_add_sub_comm, ← two_mul,
+    Int.mul_ediv_cancel' <| Int.dvd_add (h <| parity.2.1 ▸ parity.1) <| h parity.2.2]
+  ring_nf
```
Comment (tb65536) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
  simp_rw [add_assoc <| a + b, atomRel, atom, sub_add_sub_comm, ← two_mul]
  repeat rw [Int.mul_ediv_cancel'] <;> grind
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 15 above)
Comment (tb65536) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:274]: Can you add a docstring to these lemmas?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 28]
```diff
@@ -5,23 +5,45 @@ Authors: David Kurniadi Angdinata
...
+As a special case, `W` is an *elliptic sequence* if it satisfies `ER(p, q, r, 0) = 0` for all
+`p, q, r ∈ ℤ`. It is a *divisibility sequence* if it satisfies `W(k) ∣ W(n * k)` for all `k, n ∈ ℤ`,
+and an *elliptic divisibility sequence* (EDS) if it is a divisibility sequence that is elliptic. If
+`W` is an EDS, then `x • W` is also an EDS for any `x ∈ R`. It turns out that any EDS `W` can be
+normalised such that `W(1) = 1`, in which case it can be characterised completely by
+
+* the *even relations* `ERₐ(m + 1, m - 1, 1, 0) = 0` for all `m ∈ ℤ`, or in other words that
+  `W(2m) = W(m - 1)²W(m)W(m + 2) - W(m - 2)W(m)W(m + 1)²` for all `m ∈ ℤ`, and
+* the *odd relations* `ERₐ(m + 1, m, 1, 0) = 0` for all `m ∈ ℤ`, or in other words that
+  `W(2m + 1) = W(m + 2)W(m)³ - W(m - 1)W(m + 1)³` for all `m ∈ ℤ`,
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Indeed I was wrong, these should be ER rather than ERₐ. If we want to use ERₐ every parameter needs to be doubled (this is always the case when the last parameter is 0).

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 29]
```diff
@@ -61,55 +91,253 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+lemma rel_neg (odd : W.Odd) (p q r s : ℤ) : rel W (-p) (-q) (-r) (-s) = rel W p q r s := by
+  simp_rw [rel_eq, mul_neg, ← neg_add, atomRel_neg₁ odd, atomRel_neg₂ odd, atomRel_neg₃ odd,
+    atomRel_neg₄]
+
+lemma rel_even (m : ℤ) : rel W (m + 1) (m - 1) 1 0 = W (2 * m) * W 2 * W 1 ^ 2 -
+    W (m - 1) ^ 2 * W m * W (m + 2) + W (m - 2) * W m * W (m + 1) ^ 2 := by
+  rw [rel]
+  ring_nf
+
+lemma rel_odd (m : ℤ) : rel W (m + 1) m 1 0 =
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:271]: Maybe
```suggestion
/-- The "even" elliptic relator that relates `W (2 * m)` to terms of smaller indices for `m ≥ 3`. -/
lemma rel_even (m : ℤ) : rel W (m + 1) (m - 1) 1 0 = W (2 * m) * W 2 * W 1 ^ 2 -
    W (m - 1) ^ 2 * W m * W (m + 2) + W (m - 2) * W m * W (m + 1) ^ 2 := by
  rw [rel]
  ring_nf

/-- The "odd" elliptic relator that relates `W (2 * m + 1)` to terms of smaller indices
for `m ≥ 2`. -/
lemma rel_odd (m : ℤ) : rel W (m + 1) m 1 0 =
```

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:271]: Well technically `m >= 2` or `m >= 3` are not necessary but I've added docstrings.

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 29 above)
Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:271]: "Smaller" is only true when the inequalities hold ...

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 30]
```diff
@@ -61,55 +91,253 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+  ∀ p q r : ℤ, IsEllipticNet.rel W p q r 0 = 0
+
+@[deprecated (since := "2026-07-01")] alias IsEllSequence := IsEllipticSequence
+
+/-- The proposition that a sequence indexed by `ℤ` is an EDS. -/
+def IsEllipticDvdSequence : Prop :=
+  IsEllipticSequence W ∧ IsDvdSequence W
+
+@[deprecated (since := "2026-07-01")] alias IsEllDvdSequence := IsEllipticDvdSequence
+@[deprecated (since := "2026-06-30")] alias IsEllipticDivSequence := IsEllipticDvdSequence
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I don't think you have to add deprecations for decls that only existed in master very briefly ...
```suggestion
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 31]
```diff
@@ -61,55 +91,253 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+@[deprecated (since := "2026-06-30")] alias IsEllDivSequence := IsEllipticDvdSequence
+
+variable {W} in
+lemma IsEllipticNet.isEllipticSequence (h : IsEllipticNet W) : IsEllipticSequence W :=
+  (h · · · 0)
+
+@[deprecated (since := "2026-07-01")] alias IsEllipticNet.isEllSequence :=
+  IsEllipticNet.isEllipticSequence
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: This hasn't even existed in master!
```suggestion
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 32]
```diff
@@ -61,55 +91,253 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+
+@[deprecated (since := "2026-07-01")] alias IsEllSequence.smul := IsEllipticSequence.smul
+
+variable {W} in
+lemma IsEllipticDvdSequence.smul (h : IsEllipticDvdSequence W) (x : R) :
+    IsEllipticDvdSequence <| x • W :=
   ⟨h.left.smul x, h.right.smul x⟩
 
-end IsEllDivSequence
+@[deprecated (since := "2026-07-01")] alias IsEllDvdSequence.smul := IsEllipticDvdSequence.smul
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 33]
```diff
@@ -5,23 +5,45 @@ Authors: David Kurniadi Angdinata
...
+As a special case, `W` is an *elliptic sequence* if it satisfies `ER(p, q, r, 0) = 0` for all
+`p, q, r ∈ ℤ`. It is a *divisibility sequence* if it satisfies `W(k) ∣ W(n * k)` for all `k, n ∈ ℤ`,
+and an *elliptic divisibility sequence* (EDS) if it is a divisibility sequence that is elliptic. If
+`W` is an EDS, then `x • W` is also an EDS for any `x ∈ R`. It turns out that any EDS `W` can be
+normalised such that `W(1) = 1`, in which case it can be characterised completely by
+
+* the *even relations* `ER(m + 1, m - 1, 1, 0) = 0` for all `m ∈ ℤ`, or in other words that
+  `W(2m)W(2) = W(m - 1)²W(m)W(m + 2) - W(m - 2)W(m)W(m + 1)²` for all `m ∈ ℤ`, and
+* the *odd relations* `ER(m + 1, m, 1, 0) = 0` for all `m ∈ ℤ`, or in other words that
+  `W(2m + 1) = W(m + 2)W(m)³ - W(m - 1)W(m + 1)³` for all `m ∈ ℤ`,
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:43]: missed this ...
```suggestion
* the *even relations* `ER(m + 1, m - 1, 1, 0) = 0` for all `m ∈ ℤ`, or in other words that
  `W(2m)W(2)W(1)² = W(m - 1)²W(m)W(m + 2) - W(m - 2)W(m)W(m + 1)²` for all `m ∈ ℤ`, and
* the *odd relations* `ER(m + 1, m, 1, 0) = 0` for all `m ∈ ℤ`, or in other words that
  `W(2m + 1)W(1)³ = W(m + 2)W(m)³ - W(m - 1)W(m + 1)³` for all `m ∈ ℤ`,
```

Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:43]: Oh sorry, didn't see you assumed W(1)=1.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 29 above)
Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:271]: Did you add docstrings to these two lemmas or are you referring to something else?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 30 above)
Comment (tb65536) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I think it's still a good idea (e.g., for tooling to notice the rename)

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: It's generated by Codex 😆

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 31 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I know! 😆

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 33 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:43]: The 1's don't occur because W(1) = 1 in the line below

**Review by alreadydone — COMMENTED** [review]
After this PR, I suggest moving all the "standard" sequences defined by recursion from three initial terms (`(pre)normEDS(')`, `complEDS₂` etc. from L342 downwards) to another file `Standard.lean` (or maybe `Recursive.lean` / `Construction.lean`) and call the current file `Basic.lean`.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 34]
```diff
@@ -289,57 +289,49 @@ def IsEllipticNet : Prop :=
...
 
-@[deprecated (since := "2026-07-01")] alias IsEllSequence := IsEllipticSequence
-
 /-- The proposition that a sequence indexed by `ℤ` is an EDS. -/
 def IsEllipticDvdSequence : Prop :=
   IsEllipticSequence W ∧ IsDvdSequence W
 
-@[deprecated (since := "2026-07-01")] alias IsEllDvdSequence := IsEllipticDvdSequence
-@[deprecated (since := "2026-06-30")] alias IsEllipticDivSequence := IsEllipticDvdSequence
-@[deprecated (since := "2026-06-30")] alias IsEllDivSequence := IsEllipticDvdSequence
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I wasn't telling you to remove all deprecations? IsEllDivSequence and IsEllSequence existed since 2 years ago.

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Yeah, sorry. I asked Mr Codex to delete them and then went to do something else but haven't checked back.

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I'm asking AI to add deprecations for me because it's annoying to do it manually, but hopefully this is good now.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 29 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:271]: I added them to these

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 15 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:274]: I just did

**Comment by Multramate** [comment]
(this should be fine now)

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 34 above)
Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Thanks! You caught one unnecessary deprecation that I missed. I thought Codex (when used locally) usually adds a "coauthored-by" message (even when it only suggested the commit message!) but maybe you turned it off.

**Review by alreadydone — APPROVED** [review]

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 35]
```diff
@@ -61,55 +91,257 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+  simp_rw [atom, ← mul_add, ← mul_sub, Int.mul_tdiv_cancel_left _ two_ne_zero]
 
-/-- The identity sequence is an EDS. -/
-theorem isEllDivSequence_id : IsEllDivSequence id :=
-  ⟨isEllSequence_id, .id ℤ⟩
+lemma atom_odd (a b : ℤ) : atom W (2 * a + 1) (2 * b + 1) = W (a + b + 1) * W (a - b) := by
+  simp_rw [atom, add_add_add_comm _ (1 : ℤ), ← two_mul, ← mul_add, add_sub_add_comm, sub_self,
+    add_zero, ← mul_sub, Int.mul_tdiv_cancel_left _ two_ne_zero]
+
+@[simp]
```
Comment (faenuccio) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Should this really be simp?

**Comment by faenuccio** [comment]
thanks

bors d+

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 36]
```diff
@@ -61,55 +91,257 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+  W ((a + b).tdiv 2) * W ((a - b).tdiv 2)
 
-section IsEllDivSequence
+@[simp]
+lemma atom_same (a : ℤ) : atom W a a = W a * W 0 := by
+  rw [atom, ← two_mul, Int.mul_tdiv_cancel_left _ two_ne_zero, sub_self, Int.zero_tdiv]
+
+variable {W} in
+@[simp]
+lemma neg_atom (odd : W.Odd) (a b : ℤ) : -atom W a b = atom W b a := by
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:120]: This simp is also a bit weird; are there simp lemmas with Odd as conclusion?

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 35 above)
Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Yeah one could argue that the simp direction is wrong.
If you remove this `@[simp]` please also remove from `map_atomRel`.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 37]
```diff
@@ -61,55 +91,257 @@ polynomials of elliptic curves, omitting a factor of the bivariate `2`-division
...
+  simp_rw [rel_eq, mul_neg, ← neg_add, atomRel_neg₁ odd, atomRel_neg₂ odd, atomRel_neg₃ odd,
+    atomRel_neg₄]
+
+/-- The even elliptic relator `ER(m + 1, m - 1, 1, 0)` for all `m ∈ ℤ`. -/
+lemma rel_even (m : ℤ) : rel W (m + 1) (m - 1) 1 0 = W (2 * m) * W 2 * W 1 ^ 2 -
+    W (m - 1) ^ 2 * W m * W (m + 2) + W (m - 2) * W m * W (m + 1) ^ 2 := by
+  rw [rel]
+  ring_nf
+
+/-- The odd elliptic relator `ER(m + 1, m, 1, 0)` for all `m ∈ ℤ`. -/
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]:
```suggestion
/-- The even elliptic relator `ER(m + 1, m - 1, 1, 0)` for `m ∈ ℤ`. -/
lemma rel_even (m : ℤ) : rel W (m + 1) (m - 1) 1 0 = W (2 * m) * W 2 * W 1 ^ 2 -
    W (m - 1) ^ 2 * W m * W (m + 2) + W (m - 2) * W m * W (m + 1) ^ 2 := by
  rw [rel]
  ring_nf

/-- The odd elliptic relator `ER(m + 1, m, 1, 0)` for `m ∈ ℤ`. -/
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 35 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Yeah, I will remove them

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 36 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:120]: Yeah this is weird, I will remove it

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:120]: Actually I'm not so sure now. The right hand side is surely simpler than the left hand side - do we not want to simplify this? I don't know if there are any lemmas with Odd as the conclusion but surely this is no harm.

Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:120]: If there's no lemma with Odd as conclusion then this simp lemma never fires, but I agree it's harmless.
